US08247429B2
methyl 5-bromo-6-fluoro-2-methyl-2H-indazole-4-carboxylate
To a solution of methyl 5-bromo-6-fluoro-1H-indazole-4-carboxylate (700 mg, 2.56 mmol) in ethyl acetate (26 mL) was added trimethyloxonium tetrafluoroborate (569 mg, 3.85 mmol) at room temperature, and the mixture was stirred for 2.5 hr. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→50/50) to give the title compound (570 mg, yield 78%).

reactant | methyl 5-bromo-6-fluoro-1H-indazole-4-carboxylate | 2.56 mmol, 700 mg | BrC1=C(C=2C=NNC2C=C1F)C(=O)OC | C9H6BrFN2O2
reactant | trimethyloxonium tetrafluoroborate | 3.85 mmol, 569 mg | F[B-](F)(F)F.C[O+](C)C
solvent | ethyl acetate | 26 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | methyl 5-bromo-6-fluoro-2-methyl-2H-indazole-4-carboxylate | 570 mg, yield 78% | BrC1=C(C2=CN(N=C2C=C1F)C)C(=O)OC | C10H8BrFN2O2
